US07531545B2
To an ice cooled solution of trimethyl phosphonoacetate (19 mL, 0.11 mol) in THF (200 mL) was added 60% NaH (3.1 g, 0.08 mol) in portions. The ice bath was removed and the reaction mixture was stirred at room temperature for 30 min. The reaction mixture was then cooled to 0° C. before a solution of (1-cyclohexyl-2-oxo-ethyl)-carbamic acid tert-butyl ester (9 g, 37 mmol) in THF (200 mL) was added. The reaction mixture was stirred at room temperature for another 20 min. Water (100 mL) was added, and then most of the THF was evaporated. The product was extracted with EtOAc (400 mL), and the organic layer was washed with aqueous NaCl solution and then dried with MgSO4. Evaporation yielded a residue which was purified by column chromatography (1:1 heptane:EtOAc) to yield 4-tert-butoxycarbonylamino-4-cyclohexyl-but-2-enoic acid methyl ester as a white solid.

reactant | trimethyl phosphonoacetate | 0.11 mol, 19 mL | COC(=O)CP(=O)(OC)OC | C5H11O5P
reactant | NaH | 0.08 mol, 3.1 g | [H-].[Na+]
reactant | (1-cyclohexyl-2-oxo-ethyl)-carbamic acid tert-butyl ester | 37 mmol, 9 g | C(C)(C)(C)OC(NC(C=O)C1CCCCC1)=O | C13H23NO3
reactant | Water | 100 mL | O | H2O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 4-tert-butoxycarbonylamino-4-cyclohexyl-but-2-enoic acid methyl ester | COC(C=CC(C1CCCCC1)NC(=O)OC(C)(C)C)=O | C16H27NO4
